US08975254B2
c) 5-(2-((Tetrahydro-2H-pyran-2-yl)oxy)propyl)isoxazole-3-carboxylic acid
Ethyl 5-(2-(tetrahydro-2H-pyran-2-yloxy)propyl)isoxazole-3-carboxylate (1.87 g, 6.60 mmol) was dissolved in THF (20 ml). Lithium hydroxide monohydrate 1 M (6.60 ml) was added and the resulting mixture was stirred for overnight at RT. Next day more lithium hydroxide monohydrate 1 M (3.3 ml+13.20 ml) was added and the mixture was again stirred overnight. THF was evaporated, water was added and pH was adjusted to 4 with citric acid solution. The mixture was extracted four times with ethyl acetate and the combined organic phases dried and evaporated. LC-MS: [M+1]=256.27.

reactant | Ethyl 5-(2-(tetrahydro-2H-pyran-2-yloxy)propyl)isoxazole-3-carboxylate | 6.60 mmol, 1.87 g | O1C(CCCC1)OC(CC1=CC(=NO1)C(=O)OCC)C | C14H21NO5
reactant | Lithium hydroxide monohydrate | 1 M, 6.60 ml | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 1 M, 3.3 ml | O.[OH-].[Li+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(2-((Tetrahydro-2H-pyran-2-yl)oxy)propyl)isoxazole-3-carboxylic acid | O1C(CCCC1)OC(CC1=CC(=NO1)C(=O)O)C | C12H17NO5
